US08242133B2
To a mixture of 0.31 g of 4-(6-trifluoromethyl-oxazolo[5,4-b]pyridin-2-yl)pyridin-3-ol, 0.23 g of potassium carbonate and 3 ml of DMF, a mixture of 0.50 g of trifluoromethanesulfonate(2,2-difluoroethyl)ester and 7 ml of DMF was added at room temperature, and then stirred while heating at 60° C. for six hours. The reaction mixture was cooled to room temperature, and then water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with water and a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.10 g of 2-[3-(2,2-difluoroethoxy)pyridin-4-yl]-6-trifluoromethyl-oxazolo[5,4-b]pyridine (hereinafter, referred to as “active compound 162”).

reactant | 4-(6-trifluoromethyl-oxazolo[5,4-b]pyridin-2-yl)pyridin-3-ol | 0.31 g | FC(C=1C=C2C(=NC1)OC(=N2)C2=C(C=NC=C2)O)(F)F | C12H6F3N3O2
reactant | potassium carbonate | 0.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[3-(2,2-difluoroethoxy)pyridin-4-yl]-6-trifluoromethyl-oxazolo[5,4-b]pyridine | 0.10 g | FC(COC=1C=NC=CC1C=1OC2=NC=C(C=C2N1)C(F)(F)F)F | C14H8F5N3O2
